US08242134B2
8-Fluoro-isochroman-1,3-dione
2-Carboxymethyl-6-fluoro-benzoic acid (130 mg, 0.65 mmol) in acetyl chloride (2 ml) was heated under microwave irradiation at 150° C. for 10 min then concentrated in vacuo to give the title product (120 mg, 100% yield). The compound is hydroscopic and slowly decomposes back to the starting diacid in wet solvents or under moisturized atmosphere. 1H NMR (500 MHz, DMSO-d6): 4.29 (s, 2H), 7.27 (d, J=7.8 Hz, 1H), 7.34 (dd, J=8.5 Hz, J=11 Hz, 1H), 7.76 (dt, J=5.3 Hz, J=8 Hz, 1H).

reactant | 2-Carboxymethyl-6-fluoro-benzoic acid | 0.65 mmol, 130 mg | C(=O)(O)CC1=C(C(=O)O)C(=CC=C1)F | C9H7FO4
solvent | acetyl chloride | 2 ml | C(C)(=O)Cl | C2H3ClO
product | 8-Fluoro-isochroman-1,3-dione | 120 mg, 100% yield | FC=1C=CC=C2CC(OC(C12)=O)=O | C9H5FO3
